simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=tt_bbmvar
simulator lang=spectre insensitive=no
include "cells.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=27
include "lc_vco_v4d.scs"
VDD (vdd 0) vsource dc=1.2
VVCO (vco_vdd vdd) vsource dc=0
VC (ctrl 0) vsource dc=0.6
VB0 (b0 0) vsource dc=0
VB1 (b1 0) vsource dc=0
VB2 (b2 0) vsource dc=0
VB3 (b3 0) vsource dc=0
VB4 (b4 0) vsource dc=0
VB5 (b5 0) vsource dc=0
VB6 (b6 0) vsource dc=0
VB7 (b7 0) vsource dc=0
XV (vp vn ctrl b0 b1 b2 b3 b4 b5 b6 b7 vco_vdd 0) tx_lc_vco_v4d fixed_c=2e-14 tank_l=1.8e-09 series_r=6.2712558110971 cscale=1 core_w=8e-05 pcore_w=8e-05 ibias=8e-05 unit_c=6e-15 unit_w=1.8e-06 fine_w=3e-06
CPROX (vp 0) capacitor c=1.4e-13
CNROX (vn 0) capacitor c=1.4e-13
ic vp=1.20001 vn=1.2
tran tran stop=1.6e-07 maxstep=5e-12 errpreset=conservative
save vp vn XV.XL.tail VDD:p VVCO:p
saveOptions options save=selected
